US07319155B2
Preparation of (7-phenyl-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl)methanol
4 g of (3,4-bis-hydroxymethylphenyl)methanol (23.8 mmol), 40 ml of toluene, 3.06 g of benzaldehyde (28.5 mmol) and 0.24 g of Montmorillonite KSF (10 mg/mmol) are introduced into a flask equipped with a Dean-Stark. The medium is heated under reflux for 3 hours. After filtration, the toluene is evaporated under vacuum at 30° C. The residue is chromatographed on silica gel (heptane/ethyl acetate=7/3) to give 1.8 g of (7-phenyl)-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl)methanol in the form of a white powder.

reactant | (3,4-bis-hydroxymethylphenyl)methanol | 23.8 mmol, 4 g | OCC=1C=C(C=CC1CO)CO | C9H12O3
reactant | benzaldehyde | 28.5 mmol, 3.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Montmorillonite KSF | 0.24 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (7-phenyl-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl)methanol | C1(=CC=CC=C1)C1OCC2=C(CO1)C=C(C=C2)CO | C16H16O3
